US05849735
N-[5-(4H-Thieno[3,4-b][1,5]benzodiazepin-9(10H)-yl)-2-pyridinyl][1,1'-biphenyl]-2-carboxamide
As described for Example 400, 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine is reacted with 6-[([1,1'-biphenyl]-2-carbonyl)amino]-pyridine-3-carbonyl chloride to give the product as a solid.

reactant | 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine | C=1SC=C2NC3=C(NCC21)C=CC=C3 | C11H10N2S
reactant | 6-[([1,1'-biphenyl]-2-carbonyl)amino]-pyridine-3-carbonyl chloride | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
product | N-[5-(4H-Thieno[3,4-b][1,5]benzodiazepin-9(10H)-yl)-2-pyridinyl][1,1'-biphenyl]-2-carboxamide | C=1SC=C2NC3=C(N(CC21)C=2C=CC(=NC2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)C=CC=C3 | C29H22N4OS
